US06660742B2
4-Benzyloxy-2-nitrophenylacetic acid (6.38 g, 22.2 mmol) was dissolved in freshly distilled and dry THF (60 mL) and stirred in an ice bath under N2. After 5 min, borane (55.6 mL, 55.5 mmol, 1M solution in THF) was transferred using a canula to a dropping funnel placed over the stirring solution. The BH3-THF solution was then slowly added to the solution, producing much effervescence. The red solution was left stirring in the ice bath for 10 min, and then allowed to stir at room temperature for 4 h. The reaction was checked by TLC (10% MeOH/CHCl3). Water (150 mL) was slowly added to the flask until effervescence no longer occurred. The organic layer was dried with anhydrous sodium sulfate and gravity filtered. The solution was then concentrated down producing a brown oil. Column chromatography (SiO2, 10-60% EtOAc/5% CHCl3 for solubility/hexane gradient elution) afforded 2-(4-benzyloxy-2-nitrophenyl)ethanol (5.72 g, 21.0 mmol, 95%) as a brownish solid. Mp 48-52° C.; TLC (10% MeOH/CHCl3) Rf=0.61; 1H-NMR (CDCl3, 500 MHz) 7.54 (d, 2.5, 1H), 7.42 (m, 5H), 7.31 (d, 8.5, 1H), 7.17 (dd, 2.5, 8.5, 1H), 5.10 (s, 2H), 3.91 (br q, 6.5, 2H), 3.65 (br t, 6.5, OH), 3.10 (t, 6.5, 2H); IR (neat) 3400, 3050, 2965, 2921, 2858, 1622, 1523, 1453, 1344, 1240, 1039, 804. EI-MS m/z (relative intensity) 273 (M+, 14). Accurate mass (EI-MS) for C15H15NO4: calcd. 273.1001, obsd. 273.0992.

reactant | 4-Benzyloxy-2-nitrophenylacetic acid | 22.2 mmol, 6.38 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C15H13NO5
reactant | borane | 55.5 mmol, 1M, 55.6 mL | B | BH3
reactant | BH3-THF | B.C1CCOC1
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | Water | 150 mL | O | H2O
product | 2-(4-benzyloxy-2-nitrophenyl)ethanol | 21.0 mmol, 5.72 g, 95% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C15H15NO4
